US05651919
To one liter of dichloromethane were added 191 g of 3,4-difluorobiphenyl and 160 g of aluminum chloride, and maintaining the temperature to about 20° C., 86 g of acetyl chloride was gradually added dropwise under stirring. After completion of the dropwise addition, stirring was continued for 10 hours, and then 100 ml of hydrochloric acid was added to the mixture and the mixture was stirred well and washed. The mixture was further washed with water and the solvent was removed under reduced pressure. The residue was purified by distillation under reduced pressure (164° C./1 mmHg) to obtain 250 g of 3,4-difluoro-4-acetylbiphenyl.

reactant | 3,4-difluorobiphenyl | 191 g | FC=1C=C(C=CC1F)C1=CC=CC=C1 | C12H8F2
reactant | aluminum chloride | 160 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 86 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | dichloromethane | one liter | ClCCl | CH2Cl2
product | 3,4-difluoro-4-acetylbiphenyl | 250 g | FC1C=C(C=CC1(C(C)=O)F)C1=CC=CC=C1 | C14H12F2O
